US07338950B2
4-(3-Chloropyridin-2-yl)benzoic acid
Tetrakis palladium (0.1 2 g, 0.1 mMol) was added to a suspension of carboxybenzene boronic acid (0.33 g, 2.0 mMol) and 2,3-dichloropyridine (0.296 g, 2.0 mMol) in a mixture of 0.4M K2CO3 (10 mL) and acetonitrile (10 mL) and the mixture was heated at 90° C. for 12 hrs under a blanket of nitrogen. The hot suspension was filtered, the filtrate concentrated to about half the original volume before being washed with methylene chloride. The aq. layer was carefully acidified with conc. HCl and the precipitate was collected, washed with water and vacuum dried to obtain the product as a white solid.

reactant | carboxybenzene boronic acid | 2.0 mMol, 0.33 g | C(=O)(O)C1=C(C=CC=C1)B(O)O | C7H7BO4
reactant | 2,3-dichloropyridine | 2.0 mMol, 0.296 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | K2CO3 | 0.4M, 10 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | Tetrakis palladium | 0.1 mMol, 2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.[Pd]
product | 4-(3-Chloropyridin-2-yl)benzoic acid | ClC=1C(=NC=CC1)C1=CC=C(C(=O)O)C=C1 | C12H8ClNO2
